US06710052B2
5-Bromo-2-chloro-4-(phenylthio)pyrimidine
Using an analogous method to that described in Method 1, but starting from 5-bromo-2,4-dichloropyrimidine and thiophenol, the product was obtained. NMR: 7.6 (m, 5H), 8.8 (s, 1H).

reactant | 5-bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 5-Bromo-2-chloro-4-(phenylthio)pyrimidine | BrC=1C(=NC(=NC1)Cl)SC1=CC=CC=C1 | C10H6BrClN2S
